US04837242
252 mg (1.42 mmol) of 2-chloro-4-methylthiazole-5-carboxylic acid and 442 mg (1.42 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimidomethiodide were dissolved in 10 ml of methylene chloride and stirred at room temperature for 1 hour. Then, to the solution was added 249 mg (1.42 mmol) of 1,1,3-trimethyl-4-aminoindan and reaction was effected for 6 hours under reflux. The reaction mixture was poured into water and extracted with methylene chloride. The organic layer was concentrated and thereafter was purified by column chromatography (eluent; n-hexane:ethyl acetate=50:50 V/V) to obtain 204 mg of N-(1,1,3-trimethyl-4-indanyl)-2-chloro-4-methylthiazole-5-carboxamide (yield 43%).

reactant | 2-chloro-4-methylthiazole-5-carboxylic acid | 1.42 mmol, 252 mg | ClC=1SC(=C(N1)C)C(=O)O | C5H4ClNO2S
reactant | 1,1,3-trimethyl-4-aminoindan | 1.42 mmol, 249 mg | CC1(CC(C2=C(C=CC=C12)N)C)C | C12H17N
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(1,1,3-trimethyl-4-indanyl)-2-chloro-4-methylthiazole-5-carboxamide | 204 mg, yield 43% | CC1(CC(C2=C(C=CC=C12)NC(=O)C1=C(N=C(S1)Cl)C)C)C | C17H19ClN2OS
